US07662958B2
To a 0° C. solution of 3,4-dibromothiophene (1.0 Kg, 4.13 mol) in tetrahydrofuran (7.4 Kg) was added iPrMgCl (2.0 M solution in tetrahydrofuran, 2.58 Kg, 5.17 mol) keeping the temperature below 5° C. The resulting mixture was stirred at 0-5° C. for 5 hours. To the cooled Grignard solution was added ethyl chloroformate (896 g, 5.17 mol) dropwise keeping the temperature below 10° C. The resulting mixture was warmed to room temperature, and stirred for 16 hours. Water (200 mL) was added to the reaction mixture, and the resulting mixture was stirred at room temperature for 10 min The majority of the tetrahydrofuran was then removed under vacuum and ethyl acetate (4.5 Kg) was added to the mixture followed by 1N aqueous hydrochloric acid. The layers were separated, and the organic layer was washed with 12% brine (5.0 Kg) The solvent was removed under vacuum to give a yellow oil, which was filtered to remove salts to provide 956 g (98% yield) of 4-bromo-thiophene-3-carboxylic acid ethyl ester, which was used in the next step without further purification. 1H NMR (400 MHz, CDCl3): δ 8.10 (d, 1H, J=3.5 Hz), 7.30 (d, 1H, J=3.6 Hz), 4.34 (q, 2H, J=7.10 Hz), 1.38 (t, 3H, J=7.20 Hz); 13C NMR (400 MHz, CDCl3): δ14.49, 60.95, 110.49, 124.86, 130.93, 133.67, 160.68.

reactant | 3,4-dibromothiophene | 4.13 mol, 1.0 Kg | BrC1=CSC=C1Br | C4H2Br2S
reactant | iPrMgCl | 5.17 mol, 2.0 M, 2.58 Kg | C(C)(C)[Mg]Cl
reactant | ethyl chloroformate | 5.17 mol, 896 g | ClC(=O)OCC | C3H5ClO2
reactant | Water | 200 mL | O | H2O
solvent | tetrahydrofuran | 7.4 Kg | O1CCCC1 | C4H8O
product | 4-bromo-thiophene-3-carboxylic acid ethyl ester | 956 g, 98% yield | C(C)OC(=O)C1=CSC=C1Br | C7H7BrO2S
